US07994174B2
Prepared using General Procedure 4, Method A. To a stirring solution of (R)-N-allyl-6-(3-hydroxyl-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)pyridine-3-sulfonamide (75 mg, 0.20 mmol) in DCM (0.6 mL), under N2, was added diisopropylethylamine (70 μL, 0.40 mmol). The solution was then cooled to −40° C. in a dry ice/acetone bath and triflic anhydride was added (37 μL, 0.22 mmol). The reaction was stirred at −40° C. for 30 minutes then a solution of 6-chloro-1,2,3,4-tetrahydroquinoline (50 mg, 0.30 mmol) dissolved in DCM (0.3 mL) was added. The solution was allowed to warm to −20° C. and was placed in the −20° C. freezer overnight. The solution was then allowed to warm to room temperature and was washed with saturated aqueous NaHCO3 (5 mL), and the aqueous layer extracted once with DCM (5 mL). The organic layers were combined and concentrated. The residue was purified by silica gel chromatography with 5%-70% EtOAc in hexanes to give (S)-N-allyl-6-(3-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)pyridine-3-sulfonamide (94 mg) in 89% yield. LC/MS (10%-99% CH3CN/H2O (0.05% TFA)), m/z: M+1 obs=530.1, tR=2.05 min.

reactant | (R)-N-allyl-6-(3-hydroxyl-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)pyridine-3-sulfonamide | 0.20 mmol, 75 mg | C(C=C)N(S(=O)(=O)C=1C=NC(=CC1)N1C([C@@H](CC1)O)=O)C=1SC=CN1 | C15H16N4O4S2
reactant | diisopropylethylamine | 0.40 mmol, 70 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | triflic anhydride | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 6-chloro-1,2,3,4-tetrahydroquinoline | 0.30 mmol, 50 mg | ClC=1C=C2CCCNC2=CC1 | C9H10ClN
solvent | DCM | 0.6 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.3 mL | C(Cl)Cl | CH2Cl2
product | (S)-N-allyl-6-(3-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)pyridine-3-sulfonamide | 94 mg, 89% yield | C(C=C)N(S(=O)(=O)C=1C=NC(=CC1)N1C([C@H](CC1)N1CCCC2=CC(=CC=C12)Cl)=O)C=1SC=CN1 | C24H24ClN5O3S2
